US06770667B1
A suspension of 3-(1,2-dimethyl-1H-imidazol-5-yl)nitrobenzene (19.2 g) in methanol (200 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 5 g) under hydrogen atmosphere for 10 hours. After the catalyst was filtered off, the filtrate was evaporated under reduced pressure. The residue was triturated with ethyl acetate and diisopropyl ether to give 3-(1,2-dimethyl-imidazol-5-yl)aniline (14.65 g).

reactant | 3-(1,2-dimethyl-1H-imidazol-5-yl)nitrobenzene | 19.2 g | CN1C(=NC=C1C=1C=C(C=CC1)[N+](=O)[O-])C | C11H11N3O2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | 3-(1,2-dimethyl-imidazol-5-yl)aniline | 14.65 g | CN1C(=NC=C1C=1C=C(N)C=CC1)C | C11H13N3
